US07829717B2
To a solution of TFA/CH2Cl2 (3 mL, 1:1, v:v) was added tert-butyl 6-({[3-[(quinolin-4-ylmethyl)amino]thien-2-yl]carbonyl}amino)indoline-1-carboxylate (40 mg, 0.08 mmol) and the resulting mixture was stirred at rt. After 1 h, the solution was neutralized with 3N NaOH and diluted with EtOAc. The aqueous phase was removed and the organic phase was washed with brine, dried over NaSO4, filtered, and concentrated in vacuo to yield N-2,3-dihydro-1H-indol-6-yl-3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxamide as a yellow solid. MS (ES+): m/z 401 [M+1]. 1H NMR (CDCl3, 400 MHz): δ3.00 (t, J=8.4 Hz, 2H), 3.58 (t, J=8.4 Hz, 2H), 4.99 (d, J=6.4 Hz, 2H), 6.54 (d, J=5.6 Hz, 1H), 6.67 (d, J=8.0 Hz, 1H), 7.03 (d, J=8.0 Hz, 1H), 7.06 (s, 1H), 7.20 (d, J=5.2 Hz, 1H), 7.46 (d, J=4.4 Hz, 1H), 7.62 (t, J=8.0 Hz, 1H), 7.75 (t, J=8.0 Hz, 1H), 8.03 (m, 2H), 8.16 (d, J=8.0 Hz, 1H), 8.85 (d, J=4.4 Hz, 1H).

reactant | TFA CH2Cl2 | 3 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
reactant | tert-butyl 6-({[3-[(quinolin-4-ylmethyl)amino]thien-2-yl]carbonyl}amino)indoline-1-carboxylate | 0.08 mmol, 40 mg | N1=CC=C(C2=CC=CC=C12)CNC1=C(SC=C1)C(=O)NC1=CC=C2CCN(C2=C1)C(=O)OC(C)(C)C | C28H28N4O3S
reactant | NaOH | 3N | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-2,3-dihydro-1H-indol-6-yl-3-[(quinolin-4-ylmethyl)amino]thiophene-2-carboxamide | N1CCC2=CC=C(C=C12)NC(=O)C=1SC=CC1NCC1=CC=NC2=CC=CC=C12 | C23H20N4OS
